US08207344B2
2: [1-(1-Trifluoromethyl-cyclopropylmethyl)-piperidin-4-yl]-methanol
Lithium aluminum hydride (208 g, 5.0 eq) is suspended in 3.9 L of methyl tert-butyl ether and the suspension is stirred for 10 min. A solution of 1-(1-trifluoromethyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester (260 g, 0.93 mol) in 1.3 L of methyl tert-butyl ether is added dropwise at <30° C. The mixture is refluxed for 20 h and cooled to 0˜10° C. 500 mL of water are added at 0˜10° C. and the mixture is stirred for 30 min. The suspension is filtered and the cake is washed with 1.8 L of methyl tert-butyl ether. The filtrate is concentrated to ˜3 L of volume at <35° C. under vacuum. The solvent is displaced with tetrahydrofuran (1.0 L×2) and concentrated to provide 212 g of the title compound in 96.8% purity.

reactant | Lithium aluminum hydride | 208 g, 5.0 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(1-trifluoromethyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester | 0.93 mol, 260 g | C(C)OC(=O)C1CCN(CC1)C(=O)C1(CC1)C(F)(F)F | C13H18F3NO3
reactant | water | 500 mL | O | H2O
solvent | methyl tert-butyl ether | 3.9 L | C(C)(C)(C)OC | C5H12O
solvent | methyl tert-butyl ether | 1.3 L | C(C)(C)(C)OC | C5H12O
product | [1-(1-Trifluoromethyl-cyclopropylmethyl)-piperidin-4-yl]-methanol | 212 g | FC(C1(CC1)CN1CCC(CC1)CO)(F)F | C11H18F3NO
